US09260427B2
To a stirred solution of (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(tert-butyl)phenyl)pyrimidin-2-yl)phenyl)propanoate INT-10 (757 mg, 1.34 mmol) in EA (100 ml) was added Pd/C (142 mg, 0.13 mmol) and the suspension degassed with H2. The mixture was stirred vigorously under an atmosphere of H2 overnight then filtered through celite and the filtrate was concentrated to give 532 mg (88%) of (S)-tert-butyl 2-amino-3-(4-(5-(4-(tert-butyl)phenyl)pyrimidin-2-yl)phenyl)propanoate INT-11. LCMS-ESI (m/z) calculated for C27H33N3O2: 431.3. found: 432.0 [M+H]+, tR=2.01 min (Method 4).

reactant | (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(tert-butyl)phenyl)pyrimidin-2-yl)phenyl)propanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(C)(C)C | C35H39N3O4
solvent | EA | 100 ml | CC(OCC)=O | C4H8O2
catalyst | Pd/C | 0.13 mmol, 142 mg | [Pd] | Pd
product | (S)-tert-butyl 2-amino-3-(4-(5-(4-(tert-butyl)phenyl)pyrimidin-2-yl)phenyl)propanoate | 532 mg, 88% | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(C)(C)C | C27H33N3O2
